US05301693
Calcium bis(3-hydroxy-2,2-dimethyl-4-phenylmethylenedecanoate)
A 1 g (0.018 mole) quantity of calcium oxide was suspended in 100 mL of distilled water, and 4 g (0.013 mole) of 4-hexyl-3-hydroxy-2,2-dimethyl-5-phenyl-4-pentenoic acid was added to the suspension. After stirring for 4 days at room temperature, 50 mL of dichloromethane was added to the suspension and the mixture was stirred vigorously for 30 minutes. Another 50 mL of dichloromethane was added and the aqueous layer was separated. The aqueous phase was washed with 50 mL of dichloromethane, and the combined organic phase was evaporated to dryness to provide 4.8 g of crude product.

reactant | calcium oxide | [O-2].[Ca+2]
reactant | 4-hexyl-3-hydroxy-2,2-dimethyl-5-phenyl-4-pentenoic acid | 0.013 mole, 4 g | C(CCCCC)C(C(C(C(=O)O)(C)C)O)=CC1=CC=CC=C1 | C19H28O3
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | Calcium bis(3-hydroxy-2,2-dimethyl-4-phenylmethylenedecanoate) | 4.8 g | OC(C(C(=O)[O-])(C)C)C(CCCCCC)=CC1=CC=CC=C1.OC(C(C(=O)[O-])(C)C)C(CCCCCC)=CC1=CC=CC=C1.[Ca+2] | InChI=1S/2C19H28O3.Ca/c2*1-4-5-6-10-13-16(14-15-11-8-7-9-12-15)17(20)19(2,3)18(21)22;/h2*7-9,11-12,14,17,20H,4-6,10,13H2,1-3H3,(H,21,22);/q;;+2/p-2
